data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_154928_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])=[O:7])([N:5]([H:8])[H:9])[N:6]([H:10])[H:11]>>[C@@:1]1([C:2]([H:12])([H:13])[H:14])([N:5]([H:8])[H:9])[C@:4]([C:3]([H:15])([H:16])[H:17])([N:6]([H:10])[H:11])[O:7]1,44.197335000021525
MR_156724_0,[C:1](\[C:4]([C:2]([C:3]([H:18])([H:19])[H:20])([H:16])[H:17])([N:7]([H:13])[H:14])[N:8]([H:10])[H:15])(=[N:5]/[H:9])[N:6]([H:11])[H:12]>>[C:1](/[C:4]([C:2]([C:3]([H:18])([H:19])[H:20])([H:16])[H:17])=[N:8]/[H:15])([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[N:7]([H:13])[H:14],52.76647500000209
MR_183037_2,[C:1]([C:4](/[C:3](=[N:2]/[N:5]([H:8])[H:9])[N:7]([H:10])[H:11])=[C:6]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1]([C:4](/[C:3]([N:2]([N:5]([H:9])[H:10])[H:8])=[N:7]\[H:11])=[C:6]([H:15])[H:16])([H:12])([H:13])[H:14],59.876677499956514
MR_347513_0,[C:1]([C:3]([O:5][O:6][H:9])=[O:8])(/[N:7]=[C:4](\[C:2]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:3](=[O:8])[N:7]1[C@:4]([C:2]([H:13])([H:14])[H:15])([O:5][O:6][H:9])[H:12],67.23913499998744
MR_104419_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([C:5](=[O:8])[H:10])=[O:7])[O:6][H:9]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:5]1([H:10])[C:4](=[O:7])[O:8]1)[O:6][H:9],55.13717000000909
MR_382433_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:4](=[C:5](/[O:8][H:10])[H:12])[H:11])[O:6][O:7][H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[C:4]([C@@:5]([O:6][O:7][H:9])([O:8][H:10])[H:12])[H:11],40.10917249999906
MR_313980_0,[C:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:6]([H:9])[H:10])([C:7](=[O:8])[H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C@:4]([C:2]([H:14])([H:15])[H:16])([N:6]([H:9])[H:10])[C@@:5]1([C:3]([H:17])([H:18])[H:19])[C:7](=[O:8])[H:11],65.05104249998311
MR_467264_0,[C@@:1]([C:2]([O:4][O:5][H:7])([H:12])[H:13])([N:3]([H:10])[H:11])([O:6][H:8])[H:9]>>[C@:1]([C:2]([O:6][H:8])([H:12])[H:13])([N:3]([H:10])[H:11])([O:4][O:5][H:7])[H:9],62.32016250002943
MR_314599_1,[C:1]([N:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:6]([H:15])[H:16])[C:5](=[O:7])[H:8])([H:9])([H:10])[H:11]>>[C:1](/[N:3]=[C:4](\[C:2]([H:12])([H:13])[H:14])[C:6]([C:5](=[O:7])[H:8])([H:15])[H:16])([H:9])([H:10])[H:11],56.34761750002056
MR_439345_0,[N:1](/[C:2]([N:4]([H:11])[H:12])=[N:6]/[N:3]([H:9])[H:10])(/[N:5]=[N:7]\[H:13])[H:8]>>[N:1](=[C:2](/[N:4]([H:11])[H:12])[N:6]([N:3]([H:9])[H:10])/[N:5]=[N:7]\[H:13])\[H:8],39.81487500002871
MR_407692_1,[C:1]([N:2]([N:3]([O:6][H:7])[H:8])[C:4](=[C:5]([H:13])[H:14])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:2]=[C:4](/[C:5]([N:3]([O:6][H:7])[H:8])([H:13])[H:14])[H:9])([H:10])([H:11])[H:12],48.03700749999365
MR_344995_0,[C:1]([C:2](=[C:3](\[O:5][H:7])[H:9])/[C:4](=[N:6]\[H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]1=[C:4]([H:10])[N:6]([H:8])[C:3]1([O:5][H:7])[H:9])([H:11])([H:12])[H:13],49.31836250000444
MR_679551_1,[C:1]([N:3](/[C:4](=[C:5](\[C:2]([H:18])([H:19])[H:20])[N:7]([H:12])[H:13])[N:6]([H:10])[H:11])[C:8](=[O:9])[H:14])([H:15])([H:16])[H:17]>>[C:1](/[N:3]=[C:4](\[C@:5]([C:2]([H:18])([H:19])[H:20])([N:7]([H:12])[H:13])[C:8](=[O:9])[H:14])[N:6]([H:10])[H:11])([H:15])([H:16])[H:17],39.13905749998719
MR_639561_0,[C@:1]([N:2]([H:9])[H:10])([O:4][O:5][H:7])([N:6][C:3]([H:11])[H:12])[H:8]>>[C@@:1]([N:2]([H:9])[H:10])([O:4][N:6]=[C:3]([H:11])[H:12])([O:5][H:7])[H:8],49.81659749995927
MR_210177_0,[C:1](/[N:9]=[C:4](/[C:6]([C:3]([H:19])([H:20])[H:21])[C:5]([C:2]([H:16])([H:17])[H:18])[O:8][H:10])[N:7]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:9]1[C:4]([N:7]([H:11])[H:12])=[C:6]([C:3]([H:19])([H:20])[H:21])[C@@:5]1([C:2]([H:16])([H:17])[H:18])[O:8][H:10])([H:13])([H:14])[H:15],41.1796875000428
MR_182318_0,[C:1]1([H:10])([H:11])[O:6][C:2]([H:12])([H:13])[C:3]([N:4]([H:8])[H:9])=[C:5]([H:14])[O:7]1>>[C:1]1([H:10])([H:11])[C@:5]([C@@:3]2([N:4]([H:8])[H:9])[C:2]([H:12])([H:13])[O:6]2)([H:14])[O:7]1,67.5930450000213
MR_256447_1,[C@:1]1([N:6]([H:11])[H:12])([H:8])[C@@:2]([C:3]([N:5]([C:4]([H:15])([H:16])[H:17])[H:10])([H:13])[H:14])([H:9])[O:7]1>>[C:1]1([N:6]([H:11])[H:12])([H:8])[C:2]([C:3]([N:5]([C:4]([H:15])([H:16])[H:17])[H:10])([H:13])[H:14])([H:9])[O:7]1,60.306515000012695
MR_652632_1,[C:1](\[N:3]([H:10])[H:11])(=[C:6](/[C:7](=[C:2]([N:4]([H:12])[H:15])[N:5]([H:13])[H:14])[H:17])[H:16])[O:8][H:9]>>[C@@:1]1([N:3]([H:10])[H:11])([O:8][H:9])[C:2]([N:4]([H:12])[H:15])([N:5]([H:13])[H:14])[C:7]([H:17])=[C:6]1[H:16],52.13332749999552
MR_87813_1,[C:1]([C:2]([N:4]([H:11])[H:12])=[O:6])([N:3]([H:9])[H:10])([O:5][H:7])[H:8]>>[C:1]([C:2](=[O:6])[H:8])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[O:5][H:7],63.764667499985
MR_229539_1,[N:1]1([O:5][H:7])[C:2]2([H:8])[C:3]1([H:9])[C:4]([H:10])=[N:6]2>>[n:1]1([O:5][H:7])[c:2]([H:8])[n:6][c:4]([H:10])[c:3]1[H:9],26.25522750002105
